US08957066B2
To a solution of 4-((1-((1H-indol-6-yl)methyl)azetidin-3-ylidene)methyl)-3-chlorobenzoic acid (0.26 g, 0.74 mmol) in DCM (25 mL) was added DIPEA (0.29 g, 2.22 mmol), tert-butyl-2-aminophenylcarbamate (0.27 g, 1.18 mmol) and HATU (0.37 g, 0.96 mmol). The reaction mixture was stirred overnight at room temperature under a nitrogen atmosphere. After completion of the reaction as indicated by HPLC, the mixture was washed with saturated sodium bicarbonate (2×20 mL) and brine (1×15 mL). It was dried (Na2SO4), filtered and evaporated to give the crude product which was purified by column chromatography (10% MeOH: 90% DCM). After evaporation of pooled fractions of pure product, tert-butyl (2-(4-((1-((1H-indol-6-yl)methyl)azetidin-3-ylidene)methyl)-3-chlorobenzamido)phenyl)carbamate (0.2 g) was isolated as an off-white solid. ES+(M+H)+ 543.

reactant | 4-((1-((1H-indol-6-yl)methyl)azetidin-3-ylidene)methyl)-3-chlorobenzoic acid | 0.74 mmol, 0.26 g | N1C=CC2=CC=C(C=C12)CN1CC(C1)=CC1=C(C=C(C(=O)O)C=C1)Cl | C20H17ClN2O2
reactant | DIPEA | 2.22 mmol, 0.29 g | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl-2-aminophenylcarbamate | 1.18 mmol, 0.27 g | C(C)(C)(C)OC(NC1=C(C=CC=C1)N)=O | C11H16N2O2
reactant | HATU | 0.96 mmol, 0.37 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (2-(4-((1-((1H-indol-6-yl)methyl)azetidin-3-ylidene)methyl)-3-chlorobenzamido)phenyl)carbamate | 0.2 g | N1C=CC2=CC=C(C=C12)CN1CC(C1)=CC1=C(C=C(C(=O)NC2=C(C=CC=C2)NC(OC(C)(C)C)=O)C=C1)Cl | C31H31ClN4O3
